US05686482
A 1.00 g portion of methyl 2,4-dimethoxybenzoate was suspended in 0.58 ml of acetic acid, and 1.44 ml of dry trifluoroacetic acid anhydride was added under ice-cooling, followed by stirring at room temperature for 12 hours. Under ice-cooling, a saturated sodium bicarbonate aqueous solution and ethyl acetate were added, and then insoluble matter was removed by celite filtration. The thus obtained filtrate was extracted with ethyl acetate, washed with water and saturated brine and then dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure, and the resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:1-80:1) to give 0.99 g of methyl 5-acetyl-2,4-dimethoxybenzoate.

reactant | methyl 2,4-dimethoxybenzoate | COC1=C(C(=O)OC)C=CC(=C1)OC | C10H12O4
reactant | trifluoroacetic acid anhydride | 1.44 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.58 ml | C(C)(=O)O | C2H4O2
product | methyl 5-acetyl-2,4-dimethoxybenzoate | 0.99 g | C(C)(=O)C=1C(=CC(=C(C(=O)OC)C1)OC)OC | C12H14O5
